US07482340B2
b) Piperidine-4-carboxylic acid [6-(2-phenylchroman-6-yloxy)pyridin-3-yl]amide
Mixture of 4-[6-(2-Phenyl-chroman-6-yloxy)-pyridin-3-ylcarbamoyl]-piperidine-1-carboxylic acid tert-butyl ester (860 mg) and of 1 M HCl in diethyl ether (13 ml) was stirred at room temperature for 24 hours. Precipitate was filtered and washed with ether. 1H-NMR (300 MHz; d6-DMSO) δ: 10.3 (s, 1H), 8.97 (bs, 1H), 8.65 (bs, 1H), 8.34 (d, 1H, J 2.7 Hz), 8.04 (dd, 1H, J 2.7, 8.8 Hz), 7.47-7.33 (m, 5H), 6.94 (d, 1H, J 8.8 Hz), 6.86-6.84 (m, 3H), 5.11 (dd, 1H, J 2.3, 10.0 Hz), 3.35-3.29 (m, 2H), 2.97-2.89 (m, 3H), 2.74-2.66 (m, 2H), 2.19-2.13 (m, 1H), 2.00-1.74 (m, 5H), 1.50-1.35 (m, 11H).

reactant | 4-[6-(2-Phenyl-chroman-6-yloxy)-pyridin-3-ylcarbamoyl]-piperidine-1-carboxylic acid tert-butyl ester | 860 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC=1C=NC(=CC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1)=O | C31H35N3O5
reactant | HCl | 1 M | Cl | ClH
solvent | diethyl ether | 13 ml | C(C)OCC | C4H10O
product | Piperidine-4-carboxylic acid [6-(2-phenylchroman-6-yloxy)pyridin-3-yl]amide | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)OC1=CC=C(C=N1)NC(=O)C1CCNCC1 | C26H27N3O3
